US07754737B2
Tert-butyl 3-(1,1,1-trifluoro-2-hydroxy-6-methoxyhexan-2-yl)piperidine-1-carboxylate (20 mg) was dissolved in 1:1 TFA/dichloromethane (4 mL). The mixture was stirred for 30 min. The mixture was concentrated to afford 1,1,1-trifluoro-6-methoxy-2-(piperidin-3-yl)hexan-2-ol which was used without purification.

reactant | Tert-butyl 3-(1,1,1-trifluoro-2-hydroxy-6-methoxyhexan-2-yl)piperidine-1-carboxylate | 20 mg | FC(C(CCCCOC)(O)C1CN(CCC1)C(=O)OC(C)(C)C)(F)F | C17H30F3NO4
solvent | TFA dichloromethane | 4 mL | C(=O)(C(F)(F)F)O.ClCCl
product | 1,1,1-trifluoro-6-methoxy-2-(piperidin-3-yl)hexan-2-ol | FC(C(CCCCOC)(O)C1CNCCC1)(F)F | C12H22F3NO2
